US05876945
The H-Asp(OtBu)-Leu-OH (3.02 g), sodium bicarbonate (1.68 g), and 30 mL of water were mixed to give a mixture of pH 8. Z-Leu-OSu (3.63 g) in dioxane (30 mL) was added to the mixture and was stirred at room temp for 2 h. The reaction mixture was acidified by addition of conc. HCl to pH 1.0, then was extracted with ethyl acetate (30 mL×3). The combined extracts were dried over Na2SO4, filtered, and concentrated. The crude product was dissolved in methanol and chromatographed on a column of Sephadex™ LH20 to yield Z-Leu-Asp(OtBu)-Leu-OH as a foamy solid (4.43 g).

reactant | H-Asp(OtBu)-Leu-OH | 3.02 g | N[C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@@H](CC(C)C)C(=O)O | C14H26N2O5
reactant | sodium bicarbonate | 1.68 g | C([O-])(O)=O.[Na+]
reactant | Z-Leu-OSu | 3.63 g | N([C@@H](CC(C)C)C(=O)ON1C(=O)CCC1=O)C(=O)OCC1=CC=CC=C1 | C18H22N2O6
reactant | HCl | Cl | ClH
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
solvent | water | 30 mL | O | H2O
product | Z-Leu-Asp(OtBu)-Leu-OH | 4.43 g | N([C@@H](CC(C)C)C(=O)N[C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@@H](CC(C)C)C(=O)O)C(=O)OCC1=CC=CC=C1 | C28H43N3O8
